* source ROBOTS-COMMS-SCHEM
R_CMD_R14         VCC N24032  10k TC=0,0 
R_CMD_R12         N24020 VCC  10k TC=0,0 
R_CMD_R16         VCC N24050  10k TC=0,0 
R_CMD_R18         VCC N18372  10k TC=0,0 
R_CMD_R20         VCC N18320  10k TC=0,0 
R_CMD_R19         VCC N19544  10k TC=0,0 
R_CMD_R21         VCC N19532  10k TC=0,0 
R_CMD_R22         VCC N19520  10k TC=0,0 
R_CMD_R23         VCC N19508  10k TC=0,0 
R_CMD_R24         VCC N19496  10k TC=0,0 
R_CMD_R25         VCC N19484  10k TC=0,0 
R_CMD_R26         VCC N19768  10k TC=0,0 
