* source ROBOTS-COMMS-SCHEM
R_CMD_R14         GND N24032  10k TC=0,0 
R_CMD_R12         N24020 GND  10k TC=0,0 
R_CMD_R16         GND N24050  10k TC=0,0 
R_CMD_R18         GND N18372  10k TC=0,0 
R_CMD_R20         GND N18320  10k TC=0,0 
R_CMD_R19         GND N19544  10k TC=0,0 
R_CMD_R21         GND N19532  10k TC=0,0 
R_CMD_R22         GND N19520  10k TC=0,0 
R_CMD_R23         GND N19508  10k TC=0,0 
R_CMD_R24         GND N19496  10k TC=0,0 
R_CMD_R25         GND N19484  10k TC=0,0 
R_CMD_R26         GND N19768  10k TC=0,0 
